US04024163
Methyl-[1R-cis]-caronaldehyde was obtained by ozonolysis of methyl (+)-cis-chrysanthemate. The procedure described in Example 16 was then repeated using 5.3 g. triphenylphosphine, 3.36 g. carbon tetrabromide and 60 mls. dry dichloromethane and 1.5 g. methyl-[1R-cis]-caronaldehyde. The reaction product was then refluxed 3 hours with 9 mls. acetic acid, 6 mls. concentrated HBr and 3 mls. water and then diluted with water and extracted with ether. The organic solution was extracted with dilute sodium hydroxide and this extract acidified and extracted with ether and evaporated to give a residue of [1R-cis]-2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane carboxylic acid.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | HBr | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | [1R-cis]-2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)O)C | C8H10Br2O2
